US04985582
2-hydroxymethyl-2-n-propyl-propan-1,3-dithiol was prepared in an analogous manner to 2-i-butyl-2-hydroxymethyl-propan-1,3-dithiol starting from 2-benzyloxymethyl-2-n-propyl-propan-1,3-diol.

reactant | 2-i-butyl-2-hydroxymethyl-propan-1,3-dithiol | C(C(C)C)C(CS)(CS)CO | C8H18OS2
reactant | 2-benzyloxymethyl-2-n-propyl-propan-1,3-diol | C(C1=CC=CC=C1)OCC(CO)(CO)CCC | C14H22O3
product | 2-hydroxymethyl-2-n-propyl-propan-1,3-dithiol | OCC(CS)(CS)CCC | C7H16OS2
